US09145433B2
6-(2-(3-Chloro-4-fluorophenyl)pyridin-3-yl)pyrido[3,2-d]pyrimidin-4 (3H)-one (Compound 960).
Conc. HCl (0.2 ml) was added to a stirring heterogeneous slurry of 6-(2-(3-chloro-4-fluorophenyl)pyridin-3-yl)-4-methoxypyrido[3,2-d]pyrimidine (2.2 g) in EtOH (25 mL) at room temperature and heated the slurry gradually to 60° C. The pale yellow heterogeneous slurry transformed to homogeneous solution in 15 min and turned to heterogeneous slurry back again after 2 h of heating. Heating and stirring was continued for 4 h and cooled the reaction mixture to room temperature. The solid was collected by filtration and concentrated the filtrate. The solid was neutralized with aq.NaHCO3, filtered and dried to obtain title compound as a white solid (1.3 g).

reactant | HCl | 0.2 ml | Cl | ClH
reactant | 6-(2-(3-chloro-4-fluorophenyl)pyridin-3-yl)-4-methoxypyrido[3,2-d]pyrimidine | 2.2 g | ClC=1C=C(C=CC1F)C1=NC=CC=C1C=1C=CC=2N=CN=C(C2N1)OC | C19H12ClFN4O
solvent | EtOH | 25 mL | CCO | C2H6O
product | 6-(2-(3-Chloro-4-fluorophenyl)pyridin-3-yl)pyrido[3,2-d]pyrimidin-4 (3H)-one | 1.3 g | ClC=1C=C(C=CC1F)C1=NC=CC=C1C=1C=CC=2N=CNC(C2N1)=O | C18H10ClFN4O
